* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1339.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 MP_01 N006 N010 N006 N004 N015 N013 0 N014 MP_02 N009 OUT N003 N005 0 N011 IN N008 N007 N001 LT1339
C1 N015 0 .01µ
M§Q1 N008 N011 0 0 Si7884DP
M§Q2 N002 N007 N008 N008 Si7884DP
L1 N008 N009 10µ
R1 N009 OUT 5m
C2 OUT 0 2200µ Rser=5m
C3 N001 N008 1µ
D1 IN N001 1N5819
R2 N014 OUT 3K
R3 N014 0 1K
V1 IN 0 12
R4 N013 N012 10K
C4 N012 0 1000p
C5 N010 0 2200p
R5 N010 N006 10K
C6 N004 0 2200p
R6 IN N003 100K
V2 N002 0 28
Rload OUT 0 .25
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3m startup
.lib LT1339.sub
.backanno
.end
